Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Abdomimal pain 
 
Major Surgical or Invasive Procedure:
ROBOTIC TOTAL LAPAROSCOPIC HYSTERECTOMY BILATERAL 
SALPINGO-OOPHORECTOMY; URETEROLYSIS FOR RETROPERITONEAL 
FIBROSIS, ENTEROLYSIS, LYSIS OF ADHESIONS, PELVIC PERITONEAL 
WASHINGS 

 
History of Present Illness:
Ms. ___ is a ___ G3P2012 with history of endometriosis
with bilateral endometriomas and bilateral hematosalpinges found
on imaging during work-up for severe abdominal pain in ED on
___. Once ovarian torsion was ruled out, she was discharged 
home
with treatment for a UTI and had subsequent improvement of pain
and presents today for a follow-up visit and pre-op planning. 
She
reports her pain tapered off and she is now pain free, though
still feels sore and bloated. She required oxycodone for one day
post-discharge and is now not on any pain medication. She is
tolerating a regular diet and having normal BMs.

In terms of her endometriosis history, she reports being
diagnosed with endo in her ___ and having a fulgration procedure
by Dr. ___ at ___. She subsequently had 2 csx at a different
hospital with no mention of extent of disease. She has used OCP
and progesterone IUD in the past but discontinued due to having
many side effects. She also used Lupron over a decade ago with
good effect and had bone density scans during that time. She
reports regular and nonpainful periods since the birth of her
children. She denies bulk symptoms. She reports dysuria. 

She also reports heavy menstrual bleeding lasting 7 days, at
times needing to change a super tampon every hr. She has not had
endometrial sampling. Sexually active with one male partner, but
not since ED visit. Does not use contraception and not 
interested
in future childbearing.

UHCG  on ___ neg
HCT on ___
Pelvic MRI ___ at ___: 
Anteverted uterus 11.6 x 9.7 x 8.6 cm. Junctional zone is
diffusely thickened containing hyperintense cystic lesions
compatible with diffuse adenomyosis. There is a 4.9 x 4.5cm
exophytic subserosal fibroid. There are bilateral complex 
adnexal
masses measuring 6.8 x 4.4 x 5.6 cm on the left and 7.4 x 4.7 x
5.5 cm on the right containing multiple internal septations and
signals compatible with hemorrhagic products. Within right 
adnexa
there is a smaller round component 4.7 cm that appears
homogeneously hyperintense and homogenously hypointense likely
representing bilateral hematosalpinx. Ovaries are not 
confidently
visualized.

On the ___ report there is also mention of a 10mm focal
papillary projection "for which malignant transformation is not
completely excluded." However, upon my review of images with Dr.
___ on ___, he said the imaging was classic for 
bilateral
endometriomas and bilateral hematosalpinges, unlikely
pyosalpinges or malignancy.

 
Past Medical History:
Allergies: NKDA

PMH: h/o unspecified kidney infection

PSH: 
- cesarean x2
- D&C x1
- Dx LSC/fulgration of endo (Dr. ___, 20+ yr ago)
- tonsillectomy
- wisdom teeth extraction

POB: G3P2012
- C/S x2 
- SAB ___ s/p D&C

PGYN: 
- regular monthly menses, denies intermenstrual spotting
- denies history of STIs
- had ovarian cysts prior to her pregnancies, no issues since
- sexually active with one male partner
- not currently using any form of contraception
- on further questioning, endorses ?history of endometriosis
requiring IVF for one of her pregnancies

 
Social History:
___
Family History:
Reports her mother was diagnosed with breast cancer in her
___, passed away in her ___. She has never had any genetic
evaluation.
- Denies family history of uterine, ovarian or colon cancer. 

 
Physical Exam:
ADMISSION EXAM (POST-OPERATIVE)
===============================
Vital signs: 114/60 100% RA 77 
UOP: since OR 125 mL 
General: NAD, uncomfortable, appears nauseas 
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, dressings clean/dry/intact
GU: pad with minimal spotting, foley with pyridium stained urine
Extremities: no edema, no TTP

__________________________________________

DISCHARGE EXAM
==============
Vitals:
98.6 97 / 51 71 18 96 Room air  
Ins: 1080 PO/2993 IV (___)
Outs: 800 cc's since MN, 2773 on ___

General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incisions clean/dry/intact
GU: per patient, no vaginal bleeding
Extremities: no edema, no TTP

 
Pertinent Results:
___ 07:17AM BLOOD WBC-5.0 RBC-4.53 Hgb-12.1# Hct-37.3 
MCV-82 MCH-26.7# MCHC-32.4 RDW-15.2 RDWSD-46.1 Plt ___
___ 04:49PM BLOOD WBC-16.2*# RBC-3.95 Hgb-10.6* Hct-32.6* 
MCV-83 MCH-26.8 MCHC-32.5 RDW-15.1 RDWSD-45.9 Plt ___
___ 07:16AM BLOOD WBC-11.2* RBC-3.19* Hgb-8.5* Hct-26.9* 
MCV-84 MCH-26.6 MCHC-31.6* RDW-15.4 RDWSD-47.1* Plt ___
___ 10:30AM BLOOD WBC-10.8* RBC-3.18* Hgb-8.6* Hct-27.0* 
MCV-85 MCH-27.0 MCHC-31.9* RDW-15.4 RDWSD-47.6* Plt ___
__________________
Intraoperative peritoneal washings (___)
NEGATIVE FOR MALIGNANT CELLS.
- Mesothelial cells, hemosiderin-laden macrophages, ciliated 
tubal and blood.
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing RA-TLH-BSO, uterolysis, enterolysis, LOA for 
severe endometriosis. Please see the operative report for full 
details.

Her post-operative course was complicated by hypotension. 

*)Post op
Immediately post-op, her pain was controlled with IV 
Dilaudid/Toradol. Overnight on post-operative day 1, she was 
asymptomatically hypotensive to 80/48 with HR 71, RR 16, and 
SpO2 96% on RA. A bedside EKG demonstrated normal sinus rhythm, 
and her post-operative Hct was appropriate. Her BP stabilized 
s/p ___ cc bolus, and her post-operative Hct remained stable. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone/ibuprofen/acetaminophen. Her urine 
output was adequate so her foley was removed and she voided 
spontaneously. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
N/A
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
Do not exceed 4000 mg in a day   
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 2400 mg in a day  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drink and drive. may cause sedation. partial fill upon 
request  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometriosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed. You were given 
prescriptions in the PACU, which were taken home by your husband 
to fill. 
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___